* NGSPICE file created from strongarm_comparator.ext - technology: gf180mcuD

.subckt strongarm_comparator VDD VSS INP INN CLK OUTP OUTN
X0 a_n1118_3046# INN a_n3014_3046# VSS nfet_03v3 ad=1.2p pd=5.2u as=0.56p ps=2.56u w=2u l=0.6u
X1 OUTP OUTN VDD VDD pfet_03v3 ad=1.2p pd=5.2u as=0.56p ps=2.56u w=2u l=0.5u
X2 a_n3014_3046# CLK VDD VDD pfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=0.5u
X3 a_n3014_3046# INN a_n1118_3046# VSS nfet_03v3 ad=0.56p pd=2.56u as=0.56p ps=2.56u w=2u l=0.6u
X4 OUTN OUTP a_n4510_3046# VSS nfet_03v3 ad=0.56p pd=2.56u as=1.2p ps=5.2u w=2u l=0.5u
X5 a_n1118_3046# INP a_n4510_3046# VSS nfet_03v3 ad=1.2p pd=5.2u as=0.56p ps=2.56u w=2u l=0.6u
X6 a_n1118_3046# INN a_n3014_3046# VSS nfet_03v3 ad=0.56p pd=2.56u as=0.56p ps=2.56u w=2u l=0.6u
X7 a_n1118_3046# INP a_n4510_3046# VSS nfet_03v3 ad=0.56p pd=2.56u as=0.56p ps=2.56u w=2u l=0.6u
X8 a_n1118_3046# INN a_n3014_3046# VSS nfet_03v3 ad=0.56p pd=2.56u as=0.56p ps=2.56u w=2u l=0.6u
X9 a_n1118_3046# CLK VSS VSS nfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=0.5u
X10 OUTP OUTN a_n3014_3046# VSS nfet_03v3 ad=0.56p pd=2.56u as=1.2p ps=5.2u w=2u l=0.5u
X11 a_n4510_3046# INP a_n1118_3046# VSS nfet_03v3 ad=0.56p pd=2.56u as=0.56p ps=2.56u w=2u l=0.6u
X12 a_n3014_3046# INN a_n1118_3046# VSS nfet_03v3 ad=0.56p pd=2.56u as=0.56p ps=2.56u w=2u l=0.6u
X13 OUTN OUTP a_n4510_3046# VSS nfet_03v3 ad=1.2p pd=5.2u as=0.56p ps=2.56u w=2u l=0.5u
X14 OUTP OUTN VDD VDD pfet_03v3 ad=0.56p pd=2.56u as=1.2p ps=5.2u w=2u l=0.5u
X15 OUTN CLK VDD VDD pfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=0.5u
X16 a_n4510_3046# OUTP OUTN VSS nfet_03v3 ad=0.56p pd=2.56u as=0.56p ps=2.56u w=2u l=0.5u
X17 a_n1118_3046# INP a_n4510_3046# VSS nfet_03v3 ad=0.56p pd=2.56u as=0.56p ps=2.56u w=2u l=0.6u
X18 OUTN OUTP VDD VDD pfet_03v3 ad=0.56p pd=2.56u as=1.2p ps=5.2u w=2u l=0.5u
X19 OUTN OUTP VDD VDD pfet_03v3 ad=1.2p pd=5.2u as=0.56p ps=2.56u w=2u l=0.5u
X20 OUTP CLK VDD VDD pfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=0.5u
X21 a_n1118_3046# INN a_n3014_3046# VSS nfet_03v3 ad=0.56p pd=2.56u as=0.56p ps=2.56u w=2u l=0.6u
X22 a_n4510_3046# INP a_n1118_3046# VSS nfet_03v3 ad=0.56p pd=2.56u as=1.2p ps=5.2u w=2u l=0.6u
X23 a_n3014_3046# INN a_n1118_3046# VSS nfet_03v3 ad=0.56p pd=2.56u as=0.56p ps=2.56u w=2u l=0.6u
X24 a_n3014_3046# INN a_n1118_3046# VSS nfet_03v3 ad=0.56p pd=2.56u as=1.2p ps=5.2u w=2u l=0.6u
X25 a_n3014_3046# INN a_n1118_3046# VSS nfet_03v3 ad=0.56p pd=2.56u as=0.56p ps=2.56u w=2u l=0.6u
X26 a_n3014_3046# OUTN OUTP VSS nfet_03v3 ad=0.56p pd=2.56u as=0.56p ps=2.56u w=2u l=0.5u
X27 OUTP OUTN a_n3014_3046# VSS nfet_03v3 ad=1.2p pd=5.2u as=0.56p ps=2.56u w=2u l=0.5u
X28 a_n1118_3046# INN a_n3014_3046# VSS nfet_03v3 ad=0.56p pd=2.56u as=0.56p ps=2.56u w=2u l=0.6u
X29 VDD OUTN OUTP VDD pfet_03v3 ad=0.56p pd=2.56u as=0.56p ps=2.56u w=2u l=0.5u
X30 a_n1118_3046# INP a_n4510_3046# VSS nfet_03v3 ad=0.56p pd=2.56u as=0.56p ps=2.56u w=2u l=0.6u
X31 a_n1118_3046# INP a_n4510_3046# VSS nfet_03v3 ad=0.56p pd=2.56u as=0.56p ps=2.56u w=2u l=0.6u
X32 VDD OUTP OUTN VDD pfet_03v3 ad=0.56p pd=2.56u as=0.56p ps=2.56u w=2u l=0.5u
X33 a_n4510_3046# INP a_n1118_3046# VSS nfet_03v3 ad=0.56p pd=2.56u as=0.56p ps=2.56u w=2u l=0.6u
X34 a_n4510_3046# CLK VDD VDD pfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=0.5u
X35 a_n4510_3046# INP a_n1118_3046# VSS nfet_03v3 ad=0.56p pd=2.56u as=0.56p ps=2.56u w=2u l=0.6u
X36 a_n4510_3046# INP a_n1118_3046# VSS nfet_03v3 ad=0.56p pd=2.56u as=0.56p ps=2.56u w=2u l=0.6u
.ends

